US04935441
As in example 1, but using 6 g 6-carboxy-flavanone, 60 ml dimethylformamide and 15 ml phosphorous oxychloride. Reaction time is three hours at 50° C. After hydrolysis a precipitate formed which is filtered, washed with water and dried over phosphorous pentoxyde. The residual solid is dissolved in a 10% sodium bicarbonate aqueous solution, which is then washed with methylene chloride. The aqueous phase is acidified with a 10% hydrochloric acid solution and the precipitate which formed is filtered, washed and dried. The residual solid is recrystallised in a mixture of hexane and ethyl acetate and pure 6-carboxy-4-chloro-3-formyl-flav-3-ene is obtained; m.p. 262°-267° C.

reactant | 6-carboxy-flavanone | 6 g | C(=O)(O)C=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)=O | C16H12O4
reactant | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-carboxy-4-chloro-3-formyl-flav-3-ene | C(=O)(O)C=1C=C2C(=C(C(OC2=CC1)C1=CC=CC=C1)C=O)Cl | C17H11ClO4
